### PR TITLE
[Merged by Bors] - feat(NumberTheory/ModularForms): Δ = (E₄³ - E₆²) / 1728

### PR DESCRIPTION
**Pull request by CBirkbeck**
Proves the classical identity expressing the modular discriminant as a combination of Eisenstein series:

$$\Delta = \frac{E_4^3 - E_6^2}{1728}.$$

The work was done as part of the Sphere packing project. This PR was done with the help of Claude Code.

(Resubmission of #37789 with a renamed branch; earlier dependency work has been merged via #37979.)

### CODE REVIEW

File: Mathlib/NumberTheory/ModularForms/Discriminant.lean [hunk 1]
```diff
@@ -192,6 +192,30 @@ lemma exp_isBigO_discriminant : (fun τ ↦ Real.exp (-2 * π * τ.im)) =O[atImI
...
+  · have him := Periodic.im_invQParam_pos_of_norm_lt_one one_pos
+      (by simpa [dist_zero_right] using hq) hq0
+    simp [cuspFunction, Periodic.cuspFunction_eq_of_nonzero 1 _ hq0,
+      ofComplex_apply_of_im_pos him, discriminant_eq_q_prod ⟨_, him⟩,
+      Periodic.qParam_right_inv one_ne_zero hq0, eta_q]
+
+/-- The first q-expansion coefficient of the modular discriminant is 1. -/
+lemma discriminant_qExpansion_coeff_one : (qExpansion 1 Δ).coeff 1 = 1 := by
+  have hmem : (0 : ℂ) ∈ Metric.ball (0 : ℂ) 1 := Metric.mem_ball_self one_pos
+  simp [qExpansion_coeff, iteratedDeriv_succ, iteratedDeriv_zero,
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/Discriminant.lean]: I'm wary of a `simp` with long complex terms like this (it seems like it might be a bit fragile if the simp set changes). Can you make it into a `calc` proof?

File: Mathlib/NumberTheory/ModularForms/GradedRing.lean [hunk 2]
```diff
@@ -0,0 +1,104 @@
...
+
+@[expose] public noncomputable section
+
+open UpperHalfPlane ModularForm ModularFormClass MatrixGroups EisensteinSeries
+
+namespace ModularForm
+
+/-- The combination `E₄³ - E₆²` viewed as a level-1 modular form of weight 12. -/
+private noncomputable def E₄CubeSubE₆SqForm : ModularForm 𝒮ℒ 12 :=
+  ModularForm.mcast (by norm_num) ((E₄.mul E₄).mul E₄) -
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/GradedRing.lean]: Looks like we're missing `ModularForm.pow`.

File: Mathlib/NumberTheory/ModularForms/GradedRing.lean [hunk 3]
```diff
@@ -0,0 +1,104 @@
...
+
+private lemma E₄CubeSubE₆SqForm_qExpansion_eq :
+    qExpansion 1 E₄CubeSubE₆SqForm = qExpansion 1 E₄ * qExpansion 1 E₄ * qExpansion 1 E₄ -
+      qExpansion 1 E₆ * qExpansion 1 E₆ := by
+  rw [show qExpansion 1 E₄CubeSubE₆SqForm =
+        qExpansion 1 ((E₄.mul E₄).mul E₄) - qExpansion 1 (E₆.mul E₆) from
+      ModularFormClass.qExpansion_sub one_pos one_mem_strictPeriods_SL
+        (ModularForm.mcast (by norm_num) ((E₄.mul E₄).mul E₄))
+        (ModularForm.mcast (by norm_num) (E₆.mul E₆)),
+    ModularForm.qExpansion_mul one_pos one_mem_strictPeriods_SL (E₄.mul E₄) E₄,
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/GradedRing.lean]: Why is `qExpansion_sub` in the `ModularFormClass` namespace, while `qExpansion_mul` is in the `ModularForm` namespace? I think the convention with pairs `Foo` vs `FooClass` is that lemmas should be in the `Foo` namespace, even if they take an arbitrary type satisfying `FooClass` as input.

**Comment by loefflerd** [comment]
@MichaelStollBayreuth I'm transferring the assignment of this from you to me, since I've already started reviewing it anyway (I just forgot to click the "assign" button)

File: Mathlib/NumberTheory/ModularForms/Basic.lean [hunk 4]
```diff
@@ -571,6 +571,23 @@ theorem gradedMonoid_eq_of_cast {Γ : Subgroup (GL (Fin 2) ℝ)} {a b : GradedMo
   cases h
   exact congr_arg _ h2
 
+/-- The `n`-th power of a modular form, as a modular form of weight `n * k`. -/
+def pow {Γ : Subgroup (GL (Fin 2) ℝ)} [Γ.HasDetPlusMinusOne] {k : ℤ} (f : ModularForm Γ k) :
+    ∀ (n : ℕ), ModularForm Γ ((n : ℤ) * k)
+  | 0 => mcast (by simp) (1 : ModularForm Γ 0)
+  | n + 1 => mcast (by push_cast; ring) ((f.pow n).mul f)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/Basic.lean]: Rather than using a match-expression, you could also use `Nat.rec` here:

```suggestion
/-- The `n`-th power of a modular form, as a modular form of weight `n * k`. -/
def pow {Γ : Subgroup (GL (Fin 2) ℝ)} [Γ.HasDetPlusMinusOne] {k : ℤ} (f : ModularForm Γ k)
    (n : ℕ) : ModularForm Γ (n * k) :=
  n.rec (mcast (by simp) (1 : ModularForm Γ 0)) (fun n g ↦ (g.mul f).mcast (by grind))
```

File: Mathlib/NumberTheory/ModularForms/Basic.lean [hunk 5]
```diff
@@ -571,6 +571,23 @@ theorem gradedMonoid_eq_of_cast {Γ : Subgroup (GL (Fin 2) ℝ)} {a b : GradedMo
...
+@[simp]
+lemma coe_pow {Γ : Subgroup (GL (Fin 2) ℝ)} [Γ.HasDetPlusMinusOne] {k : ℤ}
+    (f : ModularForm Γ k) (n : ℕ) : ⇑(f.pow n) = (⇑f) ^ n := by
+  induction n with
+  | zero =>
+    change (1 : ℍ → ℂ) = _
+    rw [pow_zero]
+  | succ n ih =>
+    change ((f.pow n).mul f : ℍ → ℂ) = _
+    rw [coe_mul, ih, pow_succ]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/Basic.lean]: If you put `@[simps -fullyApplied coe]` on `ModularForm.mcast` above, then this becomes

```suggestion
  induction n with
  | zero => simp [pow]
  | succ n ih => simp_all only [pow, coe_mcast, coe_mul, pow_succ]
```

File: Mathlib/NumberTheory/ModularForms/Discriminant.lean [hunk 6]
```diff
@@ -192,6 +192,35 @@ lemma exp_isBigO_discriminant : (fun τ ↦ Real.exp (-2 * π * τ.im)) =O[atImI
...
+      = derivWithin (cuspFunction 1 Δ) (Metric.ball 0 1) 0 := by
+        simp [qExpansion_coeff, iteratedDeriv_succ, iteratedDeriv_zero,
+          ← derivWithin_of_isOpen Metric.isOpen_ball hmem]
+    _ = derivWithin (fun q ↦ q * ∏' i, (1 - q ^ (i + 1)) ^ 24) (Metric.ball 0 1) 0 :=
+        derivWithin_congr discriminant_cuspFunction_eqOn (discriminant_cuspFunction_eqOn hmem)
+    _ = 1 := by
+        rw [derivWithin_fun_mul (s := Metric.ball 0 1) differentiableWithinAt_id'
+          (differentiableOn_tprod_one_sub_pow_pow 24 _ hmem),
+          derivWithin_id' _ _ (Metric.isOpen_ball.uniqueDiffWithinAt hmem)]
+        simp
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/Discriminant.lean]:
```suggestion
        simp [derivWithin_fun_mul differentiableWithinAt_id'
          (differentiableOn_tprod_one_sub_pow_pow 24 _ hmem),
          derivWithin_id' _ _ (Metric.isOpen_ball.uniqueDiffWithinAt hmem)]
```

File: Mathlib/NumberTheory/ModularForms/Discriminant.lean [hunk 7]
```diff
@@ -192,6 +192,35 @@ lemma exp_isBigO_discriminant : (fun τ ↦ Real.exp (-2 * π * τ.im)) =O[atImI
...
+      ofComplex_apply_of_im_pos him, discriminant_eq_q_prod ⟨_, him⟩,
+      Periodic.qParam_right_inv one_ne_zero hq0, eta_q]
+
+/-- The first q-expansion coefficient of the modular discriminant is 1. -/
+lemma discriminant_qExpansion_coeff_one : (qExpansion 1 Δ).coeff 1 = 1 := by
+  have hmem : (0 : ℂ) ∈ Metric.ball (0 : ℂ) 1 := Metric.mem_ball_self one_pos
+  calc (qExpansion 1 Δ).coeff 1
+      = derivWithin (cuspFunction 1 Δ) (Metric.ball 0 1) 0 := by
+        simp [qExpansion_coeff, iteratedDeriv_succ, iteratedDeriv_zero,
+          ← derivWithin_of_isOpen Metric.isOpen_ball hmem]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/Discriminant.lean]:
```suggestion
        simp [qExpansion_coeff, ← derivWithin_of_isOpen Metric.isOpen_ball hmem]
```

File: Mathlib/NumberTheory/ModularForms/LevelOne/GradedRing.lean
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/LevelOne/GradedRing.lean:1]: Maybe the title of this file should have something about level one in it? I'm actually wondering if `DimensionFormulas/LevelOne.lean` should have been `LevelOne/DimensionFormulas.lean`, and then this could be `LevelOne/GradedRing.lean`.

File: Mathlib/NumberTheory/ModularForms/GradedRing.lean [hunk 8]
```diff
@@ -0,0 +1,104 @@
...
+
+## Main results
+
+* `ModularForm.discriminant_eq_E₄_cube_sub_E₆_sq`: the pointwise identity
+  `Δ = (E₄³ - E₆²) / 1728`.
+* `ModularForm.discriminant_eq_E₄_cube_sub_E₆_sq_graded`: the same identity in the graded
+  ring `⨁ k, ModularForm 𝒮ℒ k`.
+-/
+
+@[expose] public noncomputable section
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/GradedRing.lean]:
```suggestion
public noncomputable section
```
(there are no non-private defs here anyway)

File: Mathlib/NumberTheory/ModularForms/GradedRing.lean [hunk 9]
```diff
@@ -0,0 +1,104 @@
...
+
+/-- The combination `E₄³ - E₆²` viewed as a level-1 modular form of weight 12. -/
+private noncomputable def E₄CubeSubE₆SqForm : ModularForm 𝒮ℒ 12 :=
+  ModularForm.mcast (by decide) (E₄.pow 3) - ModularForm.mcast (by decide) (E₆.pow 2)
+
+private lemma E₄CubeSubE₆SqForm_apply (z : ℍ) :
+    E₄CubeSubE₆SqForm z = E₄ z ^ 3 - E₆ z ^ 2 := by
+  change ⇑(E₄.pow 3) z - ⇑(E₆.pow 2) z = _
+  rw [coe_pow, coe_pow]
+  rfl
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/GradedRing.lean]:
```suggestion
  simp only [E₄CubeSubE₆SqForm, coe_mcast, coe_pow, sub_apply, Pi.pow_apply]
```

File: Mathlib/NumberTheory/ModularForms/GradedRing.lean [hunk 10]
```diff
@@ -0,0 +1,104 @@
...
+    qExpansion 1 E₄CubeSubE₆SqForm = qExpansion 1 E₄ * qExpansion 1 E₄ * qExpansion 1 E₄ -
+      qExpansion 1 E₆ * qExpansion 1 E₆ := by
+  rw [show qExpansion 1 E₄CubeSubE₆SqForm =
+        qExpansion 1 (E₄.pow 3) - qExpansion 1 (E₆.pow 2) from
+      ModularForm.qExpansion_sub one_pos one_mem_strictPeriods_SL
+        (ModularForm.mcast (by decide) (E₄.pow 3))
+        (ModularForm.mcast (by decide) (E₆.pow 2)),
+    ModularForm.qExpansion_pow one_pos one_mem_strictPeriods_SL E₄ 3,
+    ModularForm.qExpansion_pow one_pos one_mem_strictPeriods_SL E₆ 2]
+  ring
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/GradedRing.lean]:
```suggestion
  simp only [E₄CubeSubE₆SqForm, coe_sub, coe_mcast,
    ModularForm.qExpansion_sub one_pos one_mem_strictPeriods_SL, 
    ModularForm.qExpansion_pow one_pos one_mem_strictPeriods_SL]
  ring
```

File: Mathlib/NumberTheory/ModularForms/GradedRing.lean [hunk 11]
```diff
@@ -0,0 +1,104 @@
...
+
+private lemma E₄CubeSubE₆SqForm_isCuspForm : IsCuspForm E₄CubeSubE₆SqForm := by
+  refine (isCuspForm_iff_coeffZero_eq_zero _).mpr ?_
+  rw [E₄CubeSubE₆SqForm_qExpansion_eq]
+  simp [PowerSeries.coeff_mul, -PowerSeries.coeff_zero_eq_constantCoeff,
+    E_qExpansion_coeff_zero _ ⟨2, rfl⟩, E_qExpansion_coeff_zero _ ⟨3, rfl⟩]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/GradedRing.lean]:
```suggestion
  simp [isCuspForm_iff_coeffZero_eq_zero, E₄CubeSubE₆SqForm_qExpansion_eq, 
    PowerSeries.coeff_mul, -PowerSeries.coeff_zero_eq_constantCoeff,
    E_qExpansion_coeff_zero _ ⟨2, rfl⟩, E_qExpansion_coeff_zero _ ⟨3, rfl⟩]
```

File: Mathlib/NumberTheory/ModularForms/GradedRing.lean [hunk 12]
```diff
@@ -0,0 +1,104 @@
...
+private lemma E₄CubeSubE₆SqForm_qExpansion_coeff_one :
+    (qExpansion 1 E₄CubeSubE₆SqForm).coeff 1 = 1728 := by
+  rw [E₄CubeSubE₆SqForm_qExpansion_eq]
+  norm_num [PowerSeries.coeff_mul, Finset.Nat.antidiagonal_succ, E₄_qExpansion_coeff_one,
+    E₆_qExpansion_coeff_one, E_qExpansion_coeff_zero _ ⟨2, rfl⟩,
+    E_qExpansion_coeff_zero _ ⟨3, rfl⟩]
+
+/-- The modular discriminant equals `(E₄³ - E₆²) / 1728`. -/
+theorem discriminant_eq_E₄_cube_sub_E₆_sq (z : ℍ) :
+    discriminant z = (1 / 1728) * (E₄ z ^ 3 - E₆ z ^ 2) := by
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/GradedRing.lean]:
```suggestion
    discriminant z = (E₄ z ^ 3 - E₆ z ^ 2) / 1728 := by
```

File: Mathlib/NumberTheory/ModularForms/QExpansion.lean [hunk 13]
```diff
@@ -522,7 +522,7 @@ lemma qExpansion_one (h) : qExpansion h (1 : ℍ → ℂ) = 1 := by
 
 end UpperHalfPlane
 
-namespace ModularFormClass
+namespace ModularForm
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/QExpansion.lean:523]: Moving these to the correct namespace is good, but (for form's sake) we should create deprecation aliases for the old names.

**Comment by loefflerd** [comment]
> fix: restore deprecation shims for files moved into LevelOne

I've been reliably assured that one should _not_ do this. The problem is that it loses the Git change history for the file. If the old file vanishes and a new file with identical content appears somewhere else, Git recognises it as a rename operation and the history is carried over. If the old file doesn't vanish entirely, but gets reduced to a one-line deprecation stub, then Git treats the newly-relocated file as if it were freshly created.

The "done thing" is, apparently, to just remove the old files without deprecations, but to make a separate PR immediately after this one which adds deprecation stubs again. (I agree this is exceedingly tedious.)

File: Mathlib/NumberTheory/ModularForms/Discriminant.lean [hunk 14]
```diff
@@ -192,6 +192,33 @@ lemma exp_isBigO_discriminant : (fun τ ↦ Real.exp (-2 * π * τ.im)) =O[atImI
     grind [norm_one, norm_sub_rev]
   linarith [norm_nonneg (𝕢 1 τ), mul_le_mul_of_nonneg_left hprod_bound (norm_nonneg (𝕢 1 τ))]
 
+/-- The cusp function of the discriminant equals `q * ∏' n, (1 - q^(n+1))^24`
+on the open unit disc. -/
+private lemma discriminant_cuspFunction_eqOn : Set.EqOn (cuspFunction 1 Δ)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/Discriminant.lean]: I think we shouldn't be ashamed to make this one public
```suggestion
lemma discriminant_cuspFunction_eqOn : Set.EqOn (cuspFunction 1 Δ)
```

File: Mathlib/NumberTheory/ModularForms/QExpansion.lean [hunk 15]
```diff
@@ -587,12 +583,23 @@ protected lemma qExpansion_one [Γ.HasDetPlusMinusOne] :
...
+protected lemma qExpansion_pow [Γ.HasDetPlusMinusOne] (hh : 0 < h)
+    (hΓ : h ∈ Γ.strictPeriods) (f : ModularForm Γ k) (n : ℕ) :
+    qExpansion h (f.pow n) = (qExpansion h f) ^ n := by
+  induction n with
+  | zero =>
+    change qExpansion h (1 : ModularForm Γ 0) = _
+    rw [pow_zero, ModularForm.qExpansion_one]
+  | succ n ih =>
+    change qExpansion h ((f.pow n).mul f) = _
+    rw [ModularForm.qExpansion_mul hh hΓ, ih, pow_succ]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/QExpansion.lean]:
```suggestion
protected lemma qExpansion_pow [Γ.HasDetPlusMinusOne] (hh : 0 < h) (hΓ : h ∈ Γ.strictPeriods)
    (f : ModularForm Γ k) (n : ℕ) :
    qExpansion h (f.pow n) = (qExpansion h f) ^ n := by
  induction n with
  | zero => simp only [coe_pow, pow_zero, qExpansion_one]
  | succ n ih => rw [coe_pow, pow_succ, ← coe_pow, ← coe_mul, ModularForm.qExpansion_mul hh hΓ, ih,
      pow_succ]
```

File: Mathlib/NumberTheory/ModularForms/LevelOne/GradedRing.lean [hunk 16]
```diff
@@ -0,0 +1,97 @@
...
+    simpa [PowerSeries.coeff_smul, discriminant_qExpansion_coeff_one,
+      E₄CubeSubE₆SqForm_qExpansion_coeff_one] using (congr_arg (·.coeff 1) hgΔ).symm
+  have h1728 : (1728 : ℂ) * discriminant z = E₄ z ^ 3 - E₆ z ^ 2 := by
+    rw [← hc_eq, show c * discriminant z = (c • CuspForm.discriminant) z from rfl, hc,
+      congr_fun hgE z, E₄CubeSubE₆SqForm_apply]
+  linear_combination h1728 / 1728
+
+/-- The modular discriminant equals `(E₄³ - E₆²) / 1728` in the graded ring
+`⨁ k, ModularForm 𝒮ℒ k`. -/
+theorem discriminant_eq_E₄_cube_sub_E₆_sq_graded :
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/LevelOne/GradedRing.lean:78]: I'm not 100% happy with this proof, but I don't know how to make it better, either. I tried (multiple times!) to refactor it but kept getting stuck on e.g. `rw` not firing because it couldn't identify `ModularForm 𝒮ℒ 12` and `ModularForm 𝒮ℒ (4 + 4 + 4)`, and other similar stupidities. (Setting the `backward.isDefEq.respectTransparency false` option makes things slightly better, but not much.)

**Comment by loefflerd** [comment]
I'm happy with everything here now except the one proof involving graded-ring stuff.

File: Mathlib/NumberTheory/ModularForms/LevelOne/GradedRing.lean (hunk 16 above)
Comment (CBirkbeck) [reply Mathlib/NumberTheory/ModularForms/LevelOne/GradedRing.lean:78]: I made some more API, is this better now?

Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/LevelOne/GradedRing.lean:78]: It would be nice if all these `change`'s and casts weren't needed, but that's not a fault in the present PR; it's a limitation of the underlying API that this PR has exposed. The new API lemmas definitely do help somewhat, so let's go ahead with this.

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
